US03957782
1-Ethyl-6-methyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid, cyanomethyl ester
9.12 g. of the sodium salt of 1-ethyl-6-methyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid (0.04 mol.), 3.33 g. of chloroacetonitrile (0.056 mol.) and 90 ml. of dimethyl-formamide are stirred at 70°-80° for 12 hours. After vacuum removal of the dimethylformamide, the residue is stirred with 200 ml. of ether and filtered. The ethereal filtrate is evaporated and the residual 1-ethyl-6-methyl-1H-pyrazolo[3,4-b]-pyrazine-5-carboxylic acid, cyanomethyl ester is recrystallized from hexane, yield 3.76 g. (38%), m.p. 83°-84°. A polymorphous form melts at 111°-112°.

reactant | sodium | [Na] | Na
reactant | 1-ethyl-6-methyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid | 0.04 mol | C(C)N1N=CC=2C1=NC(=C(N2)C(=O)O)C | C9H10N4O2
reactant | chloroacetonitrile | 0.056 mol | ClCC#N | C2H2ClN
solvent | dimethyl-formamide | CN(C=O)C | C3H7NO
product | 1-Ethyl-6-methyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid, cyanomethyl ester | C(C)N1N=CC=2C1=NC(=C(N2)C(=O)OCC#N)C | C11H11N5O2
